US05744426
Ethyl 4-chlorobenzoylacetate
200 g (1.29 mol) of 4-chloroacetophenone (dissolved in 500 ml of diethyl carbonate) were added dropwise at 60° C. to a mixture of 296.4 g (2.59 mol) of potassium tert-butylate and 2.25 1 of diethyl carbonate. Thesuspension, which could be stirred with difficulty, was stirred at 60° C. for 3 h and then introduced into 2.7 1 of 10% strength sulfuric acid. Extraction with ethyl acetate, drying of the organic phase over magnesium sulfate and concentration in vacuo gave the crude product, which was purified further by distillation (b.p. 130° C., 0.4 mbar). Yield: 268 g.

reactant | 4-chloroacetophenone | 1.29 mol, 500 ml, 200 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | potassium tert-butylate | 2.59 mol, 296.4 g | CC(C)(C)[O-].[K+]
reactant | diethyl carbonate | C(OCC)(OCC)=O | C5H10O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | Ethyl 4-chlorobenzoylacetate | ClC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11ClO3
